US04111682
Preparation of N-methyl-N-tert.-octylthiomethylamine hydrochloride
300 ml. of acetonitrile, 12.9 g. (0.1 mole) of 1,3,5-trimethylhexahydro-s-triazine; 43.8 g. (0.3 mole) of tert.-octylthiomethylamine and 12 g. of hydrogen chloride gas are reacted together in the manner of Example I. A yield of 43.7 g. (64.6% of theory) of the title compound is obtained.

reactant | 1,3,5-trimethylhexahydro-s-triazine | 0.1 mole | CN1CN(CN(C1)C)C | C6H15N3
reactant | tert.-octylthiomethylamine | 0.3 mole | C(C)(C)(CC(C)(C)C)SCN | C9H21NS
reactant | hydrogen chloride | Cl | ClH
solvent | acetonitrile | C(C)#N | C2H3N
product | N-methyl-N-tert.-octylthiomethylamine hydrochloride | Cl.CNCSC(C)(C)CC(C)(C)C | InChI=1S/C10H23NS.ClH/c1-9(2,3)7-10(4,5)12-8-11-6;/h11H,7-8H2,1-6H3;1H
